US04628057
Methyl (3RS)-9-methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate
In the same manner as described in Example 53, methyl (3RS)-9-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride (5.61 g), triethylamine (4.86 g), carbon disulfide (1.83 g), methanol (200 ml) and methyl iodide (3.40 g) are reacted and treated. The product is recrystallized from methanol to give the title compound (5.38 g, 80.5%) as colorless needles, m.p. 170°-171° C.

reactant | methyl (3RS)-9-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylate hydrochloride | 5.61 g | Cl.CN1C2=CC=CC=C2C=2CC(NCC12)C(=O)OC
reactant | triethylamine | 4.86 g | C(C)N(CC)CC | C6H15N
reactant | carbon disulfide | 1.83 g | C(=S)=S | CS2
reactant | methyl iodide | 3.40 g | CI | CH3I
solvent | methanol | 200 ml | CO | CH4O
product | Methyl (3RS)-9-methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylate | 5.38 g, 80.5% | CN1C2=CC=CC=C2C=2CC(N(CC12)C(=S)SC)C(=O)OC | C16H18N2O2S2
